US04010202
In the presence of 2 parts of 5 % palladium-on-carbon, 2 parts of 2-(3,4-dihydro-2H-pyran-2-yl)methylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide is catalytically reduced in 50 volume parts of water at ordinary temperature and pressure until no more hydrogen is absorbed. The catalyst is filtered off and the filtrate is freeze-dried. The above procedure yields 2 parts of 2-(tetrahydropyran-2-yl)methylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide as colorless crystals melting at 155°-158° C (decomposition). The product was identified as that of Example 5 by mixed melting point)

reactant | 2-(3,4-dihydro-2H-pyran-2-yl)methylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.O1C(CCC=C1)CNC1C(C2=CC=C(C(=C2CC1)O)O)=O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | O | H2O
product | 2-(tetrahydropyran-2-yl)methylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.O1C(CCCC1)CNC1C(C2=CC=C(C(=C2CC1)O)O)O | InChI=1S/C16H23NO4.BrH/c18-14-7-5-11-12(16(14)20)4-6-13(15(11)19)17-9-10-3-1-2-8-21-10;/h5,7,10,13,15,17-20H,1-4,6,8-9H2;1H
